US07012080B2
Step 1, tert-butyl 4-[(dibenzylamino)carbonyl]piperidine-1-carboxylate
To a stirred mixture of 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (J. Med. Chem. 1998, 41, 2492–2502, 3.0 g, 13.1 mmol), dibenzylamine (2.5 mL, 13.1 mmol) and diisopropylethylamine (3.4 mL, 19.7 mmol) in dichrolomethane (150 mL) was added PyBroP (bromo-tris-pyrrolidino-phosophonium hexafluorophosphate) (6.1 g, 15.7 mmol) was added at 0° C. The mixture was stirred at ambient temperature for 18 h and partitioned between dichloromethane and water. After extraction with dichloromethane, the combined organic phase was dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (6:1) to afford 4.0 g (75%) of the title compound as a colorless amorphous powder.

reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 13.1 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | dibenzylamine | 13.1 mmol, 2.5 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | diisopropylethylamine | 19.7 mmol, 3.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBroP | 15.7 mmol, 6.1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
product | tert-butyl 4-[(dibenzylamino)carbonyl]piperidine-1-carboxylate | 4.0 g, 75% | C(C1=CC=CC=C1)N(C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C25H32N2O3
